### PR TITLE
[ new ] viaList & property

### PR DESCRIPTION
**Pull request by gallais**
Re #3043:

1. introducing `viaList` and refactoring `map` in terms of it
2. deprecating `take` and `drop` which are lawless

### CODE REVIEW

File: src/Data/DifferenceList/Properties.agda [hunk 1]
```diff
@@ -51,6 +51,13 @@ toList⁺ {xs = xs} {ys} xs∼ys = begin
   ys List.[]          ≡⟨⟩
   toList ys           ∎
 
+viaList⁺ : (f : List A → List B) → xs ∼ ys → f xs ∼ viaList f ys
+viaList⁺ {xs = xs} {ys = ys} f xs∼ys k = begin
+  fromList (f xs)        k ≡⟨⟩
+  f xs           List.++ k ≡⟨ cong ((List._++ _) ∘′ f) (toList⁺ xs∼ys) ⟩
```
Comment (jamesmckinna) [inline src/Data/DifferenceList/Properties.agda]: Would 
```suggestion
  f xs           List.++ k ≡⟨ cong (fromList ∘′ f) (toList⁺ xs∼ys) ⟩
```
Suffice in this step?

As with the originating PR, I see no especial reason to invoke `List._++_` when `fromList` will (definitionally) suffice!

**Review by jamesmckinna — APPROVED** [review]
All looks very nice indeed.

Here, or again separately, we should have the proof (implicit in the appeal to `assoc` in `++^+`) that `fromList` *is* the (underlying function of the) `IsMonoidHomomorphism` from lists-with-append to Endofunctions on the underlying elements. But that may well be done better in/on `Function.Endo.Setoid` and then back-ported to here.

**Review by JacquesCarette — APPROVED** [review]
